US05760059
1-tert-butoxycarbonyl-2-phenyl hydrazine
Di tert-butyl dicarbonate (5.6 g) was added to a solution of phenyl hydrazine (2.5 ml) in tetrahydrofuran (50 ml ). The solution was stirred at 25° for 2 hrs then concentrated in vacuo affording the crude title compound. (5.44 g) TIc EA/CH (1/2), Rf= 0.8

reactant | Di tert-butyl dicarbonate | 5.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | phenyl hydrazine | 2.5 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonyl-2-phenyl hydrazine | C(C)(C)(C)OC(=O)NNC1=CC=CC=C1 | C11H16N2O2
